US06897231B2
A. [3-(5-Cyano-1-perhydro-2H-pyran-2-yl(1H-indazol-3-yl))phenyl]-N-[(4-fluorophenyl)methyl]carboxamide
The reaction of 3-(5-cyano-1-perhydro-2H-pyran-2-yl-1H-indazol-3-yl)benzoic acid (1.0 g, 2.87 mmol), HOBT (1.16 g, 8.62 mmol), EDCI (1.64 g, 8.62 mmol) and 4-fluorobenzylamine (0.98 mL, 1.07 g, 8.62 mmol) furnished 1.2 g (90% yield) of the title compound. ES-MS (m/z) 455 [M]+.

reactant | 3-(5-cyano-1-perhydro-2H-pyran-2-yl-1H-indazol-3-yl)benzoic acid | 2.87 mmol, 1.0 g | C(#N)C=1C=C2C(=NN(C2=CC1)C1OCCCC1)C=1C=C(C(=O)O)C=CC1 | C20H17N3O3
reactant | HOBT | 8.62 mmol, 1.16 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 8.62 mmol, 1.64 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 4-fluorobenzylamine | 8.62 mmol, 0.98 mL, 1.07 g | FC1=CC=C(CN)C=C1 | C7H8FN
product | [3-(5-Cyano-1-perhydro-2H-pyran-2-yl(1H-indazol-3-yl))phenyl]-N-[(4-fluorophenyl)methyl]carboxamide | 1.2 g, 90% yield | C(#N)C1CCC(OC1)N1N=C(C2=CC=CC=C12)C=1C=C(C=CC1)C(=O)NCC1=CC=C(C=C1)F | C27H23FN4O2
